US06770420B2
In general analogy to the reaction described under 3.2, 38 g (0.25 mol) of α-hydroxyiminothiophene-2-acetonitrile and 37.95 g (0.375 mol) of triethylamine are dissolved in 350 ml of tetrahydrofuran and to this solution is then added dropwise a solution of 31.5 g (0.275 mol) of methanesulfonyl chloride at 0-5° C. After the addition is complete, the mixture is stirred for 30 minutes at 0° C. and then overnight at room temperature. The reaction mixture is filtered, the filtrate is washed with saturated sodium chloride solution and dried over magnesium sulfate. The solvent is distilled off on a rotary evaporator, giving a grey solid which is then recrystallised from toluene. 52.4 g (91%) of α-(methylsulfonyloxyimino)thiophene-2-acetonitrile are obtained in the form of beige crystals having an m.p. of 108-111° C. The 1H-NMR spectrum shows it to be a 55:45 mixture of the cis- and trans-isomers.

reactant | α-hydroxyiminothiophene-2-acetonitrile | 0.25 mol, 38 g | ON=C(C#N)C=1SC=CC1 | C6H4N2OS
reactant | triethylamine | 0.375 mol, 37.95 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.275 mol, 31.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | α-(methylsulfonyloxyimino)thiophene-2-acetonitrile | 52.4 g, 91% | CS(=O)(=O)ON=C(C#N)C=1SC=CC1 | C7H6N2O3S2
